US07589232B2
(4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(pent-4-ynoyl)amino]methyl}phenoxy) acetic acid
The titled compound was prepared following the procedure H using methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]phenoxy}acetate and pent-4-ynoic acid as a yellow oil (99%). HPLC, Rt: 5.63 min (Purity: 98.6%).

reactant | methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]phenoxy}acetate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNCC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C29H31NO3
reactant | pent-4-ynoic acid | C(CCC#C)(=O)O | C5H6O2
product | (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(pent-4-ynoyl)amino]methyl}phenoxy) acetic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCC#C)=O)CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C33H33NO4
